US04065467
A solution consisting of methyl 3-acetyl-4-hydroxy-benzoate (16 g) and methyl nicotinate (23 g) in dioxane (100 ml) was slowly added at room temperature under stirring to a suspension of sodium hydride 50% (12 g) in dioxane (60 ml). The solution was kept for 6 hours at 80° C, then cooled, diluted with petroleum ether (200 ml), and filtered. The product obtained was dissolved in water and treated with acetic acid; the precipitate obtained was washed with water and crystallised with methylene chloride/methanol to give (2-hydroxy-5-carbomethoxy-benzoyl)-nicotinoyl-methane (17.2 g; m.p. 200°-202° C) which was then treated with ethanol (300 ml) containing concentrated hydrochloric acid 1% at reflux temperature for 2 hours. After concentration under vacuum, dilution with water, neutralisation with sodium acetate, the precipitate was filtered. The raw 6-carbomethoxy-2-(3'-pyridyl)-chromone (15.1 g) was hydrolysed with the stoichiometric quantity of potassium hydroxide 1% in ethanol 95% at reflux temperature for an hour. After cooling, dilution with water (600 ml), neutralisation with acetic acid, the precipitate was collected, to obtain, after crystallisation from dimethylformamide, 6-carboxy-2-(3'-pyridyl)-chromone (9.8 g; m.p. > 350° C); I.R. (KBr): νC=O (carboxy) 1680 cm-1, νC=O (chromone) 1630 cm-1, 1610 cm-1, γC-H (meta-substituted pyridine) 770 cm-1, 696 cm-1.

reactant | methyl 3-acetyl-4-hydroxy-benzoate | 16 g | C(C)(=O)C=1C=C(C(=O)OC)C=CC1O | C10H10O4
reactant | methyl nicotinate | 23 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | sodium hydride | 12 g | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | (2-hydroxy-5-carbomethoxy-benzoyl)-nicotinoyl-methane | 17.2 g | OC1=C(C(=O)CC(C2=CN=CC=C2)=O)C=C(C=C1)C(=O)OC | C16H13NO5
